US08664241B2
To a solution of 5-bromonicotinaldehyde (XLV) (5.0 g, 26.9 mmol) in DCE (108 mL) was added dimethylamine-HCl (4.39 g, 53.8 mmol) and TEA (7.5 g, 53.8 mmol). The reaction was stirred at room temperature for 1 h. NaBH(OAc)3 was added and the reaction was stirred overnight at room temperature. The reaction was diluted with DCM and sat. aq. NaHCO3. The organic layer was separated, washed with water, brine, dried and concentrated under vacuum to produce 1-(5-bromopyridin-3-yl)-N,N-dimethylmethanamine (XLVI) as a brown liquid (5.36 g, 24.9 mmol, 92.6% yield). 1H NMR (CDCl3) δ ppm 2.15 (s, 6H), 3.43 (s, 2H), 7.94 (s, 1H), 8.47 (d, J=1.1 Hz, 1H), 8.59 (d, J=2.2 Hz, 1H); ESIMS found C8H11BrN2 m/z 215 (MBr79+H) and 217 (MBr81+H).

reactant | 5-bromonicotinaldehyde | 26.9 mmol, 5.0 g | BrC=1C=NC=C(C=O)C1 | C6H4BrNO
reactant | dimethylamine-HCl | 53.8 mmol, 4.39 g | Cl.CNC
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 108 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 1-(5-bromopyridin-3-yl)-N,N-dimethylmethanamine | 24.9 mmol, 5.36 g, 92.6% yield | BrC=1C=C(C=NC1)CN(C)C | C8H11BrN2
